* CMOS logical inverter
Vdd vdd 0 DC 5
Vin in 0 PULSE(0 5 0 1n 1n 0.5u 1u)
Mp out in vdd vdd PMOS
Mn out in 0 0 NMOS
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m
.model PMOS PMOS LEVEL=1 VTO=-1 KP=0.5m
.op
.tran 1n 5u
.end
